* /Users/bkent/Documents/Academic/ITB/Semester Genap 25:26/Prak Elka1/tubes/notebook/CS_Amp_Baseline_LoadEffect.asc
M1 Drain Gate N002 N002 VN2222_RIIL
Rs1 N002 Source {RS1_val}
Rd Vdd Drain {RD_val}
Rs2 Source 0 {RS2_val}
R1 Vdd Gate {R1_val}
R2 Gate 0 {R2_val}
Cs 0 Source {Cs_val}
V1 Vdd 0 12
Cin Gate N001 {Cin_val}
Cout Vout Drain {Cout_val}
V2 Vin 0 SINE(0 2m 1k)
Rin_Osiloskop Vout 0 1000k
Rout_Sumber N001 Vin 50
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/bkent/Library/Application Support/LTspice/lib/cmp/standard.mos
* --- Parameter Ekstraksi Silikon ---
.param my_VTO = 1.529
.param my_KP = 31.9m
.param my_LAMBDA = 0.0234
* --- Parameter Komponen E24 ---
.param RD_val = 1600
.param RS1_val = 82
.param RS2_val = 430
.param R1_val = 91k
.param R2_val = 39k
* --- Parameter Kapasitor (Initial) ---
.param Cin_val = 10u
.param Cout_val = 10u
.param Cs_val = 100u
* --- Model MOSFET Level 1 ---
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})
.tran 10m
.backanno
.end
