* MOSFET Transfer Characteristics Nested Sweep
M1 Drain Gate 0 0 VN2222_RIIL
Vds Drain 0 12
Vgs Gate 0 0

* Inner Sweep: Vgs (0 to 5V, step 0.01V)
* Outer Sweep: Vds (2V to 12V, step 2V)
.dc Vgs 0 5 0.01 Vds 2 12 2

* Model MOSFET
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})
.backanno
.end