* CS Amplifier - Phase 2: Transient Analysis
M1 Drain Gate Source Source VN2222_RIIL
Rs1 Source S_mid {RS1_val}
Rd Vdd Drain {RD_val}
Rs2 S_mid 0 {RS2_val}
R1 Vdd Gate {R1_val}
R2 Gate 0 {R2_val}
Cs 0 S_mid {Cs_val}
V1 Vdd 0 12
Cin Gate Vin {Cin_val}
Cout Vout Drain {Cout_val}

* Sinyal Input: Gelombang Sinus 1kHz, Amplitudo 20mV
V2 Vin 0 SINE(0 20m 1k)

* --- Model MOSFET Level 1 ---
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})

* --- Perintah Analisis: Transient 5ms dengan step maksimal 1us ---
.tran 0 5m 0 0.1u
.backanno
.end