* CS Amplifier - Phase 3: AC Frequency Response
M1 Drain Gate Source Source VN2222_RIIL
Rs1 Source S_mid {RS1_val}
Rd Vdd Drain {RD_val}
Rs2 S_mid 0 {RS2_val}
R1 Vdd Gate {R1_val}
R2 Gate 0 {R2_val}
Cs 0 S_mid {Cs_val}
V1 Vdd 0 12
Cin Gate Vin {Cin_val}
Cout Vout Drain {Cout_val}

* Sinyal Input: AC 1 Volt (Biar ngitung Gain langsung dari Vout)
V2 Vin 0 AC 1

* --- Model MOSFET Level 1 ---
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})

* --- Perintah Analisis: AC Sweep Decade, 100 titik/dekade ---
.ac dec 100 1 100Meg
.backanno
.end