* CS Amplifier - Phase 4: Output Impedance (Thevenin Test)
M1 Drain Gate Source Source VN2222_RIIL
Rs1 Source S_mid {RS1_val}
Rd Vdd Drain {RD_val}
Rs2 S_mid 0 {RS2_val}
R1 Vdd Gate {R1_val}
R2 Gate 0 {R2_val}
Cs 0 S_mid {Cs_val}
V1 Vdd 0 12
Cin Gate Vin {Cin_val}
Cout Vout Drain {Cout_val}

* Sinyal Input Utama DIMATIKAN (Dihubung singkat ke Ground)
V2 Vin 0 0

* Sinyal Test Thevenin disuntikkan di terminal Output (Drain)
Itest 0 Drain AC 1 <-- Suntik arus 1A AC

* --- Model MOSFET Level 1 ---
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})

* --- Perintah Analisis: AC Sweep (Cukup di daerah midband) ---
.ac dec 100 1 100Meg
.backanno
.end