* MOSFET Transfer Characteristics Testbench
M1 Drain Gate 0 0 VN2222_RIIL
Vds Drain 0 12
Vgs Gate 0 0

* Sapu Vgs (0 ke 5V, step 0.01V) untuk melihat transisi Cut-off ke Saturasi
.dc Vgs 0 5 0.01

* Model MOSFET
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})
.PARAM my_VTO=1.529  ; Batch instruction
.PARAM my_KP=31.9m  ; Batch instruction
.PARAM my_LAMBDA=23.4m  ; Batch instruction
.PARAM RD_val=1.6k  ; Batch instruction
.PARAM RS1_val=82  ; Batch instruction
.PARAM RS2_val=430  ; Batch instruction
.PARAM R1_val=91k  ; Batch instruction
.PARAM R2_val=39k  ; Batch instruction
.PARAM Cin_val=10u  ; Batch instruction
.PARAM Cout_val=10u  ; Batch instruction
.PARAM Cs_val=100u  ; Batch instruction
.backanno
.end