* CS Amplifier - Phase 3: AC Frequency Response
M1 Drain Gate Source Source VN2222_RIIL
Rs1 Source S_mid {RS1_val}
Rd Vdd Drain {RD_val}
Rs2 S_mid 0 {RS2_val}
R1 Vdd Gate {R1_val}
R2 Gate 0 {R2_val}
Cs 0 S_mid {Cs_val}
V1 Vdd 0 12
Cin Gate Vin {Cin_val}
Cout Vout Drain {Cout_val}

* Sinyal Input: AC 1 Volt (Biar ngitung Gain langsung dari Vout)
V2 Vin 0 AC 1

* --- Model MOSFET Level 1 ---
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})

* --- Perintah Analisis: AC Sweep Decade, 100 titik/dekade ---
.ac dec 100 1 100Meg
.PARAM my_VTO=1.529  ; Batch instruction
.PARAM my_KP=31.9m  ; Batch instruction
.PARAM my_LAMBDA=23.4m  ; Batch instruction
.PARAM RD_val=1.6k  ; Batch instruction
.PARAM RS1_val=82  ; Batch instruction
.PARAM RS2_val=430  ; Batch instruction
.PARAM R1_val=91k  ; Batch instruction
.PARAM R2_val=39k  ; Batch instruction
.PARAM Cin_val=10u  ; Batch instruction
.PARAM Cout_val=10u  ; Batch instruction
.PARAM Cs_val=100u  ; Batch instruction
.backanno
.end