* MOSFET Characterization Testbench Murni
M1 Drain Gate 0 0 VN2222_RIIL
Vds Drain 0 12
Vgs Gate 0 0

* Perintah Analisis DC Sweep:
* 1. Sapu Vds (0 ke 12V, step 0.1V) -> Buat kurva output
* 2. Langkah Vgs (1.5V ke 4.5V, step 0.5V) -> Buat multiple line kurva output
.dc Vds 0 12 0.1 Vgs 1.529 4.5 0.5

* Model MOSFET (Pastiin parameter VTO sesuai)
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})
.PARAM my_VTO=1.529  ; Batch instruction
.PARAM my_KP=31.9m  ; Batch instruction
.PARAM my_LAMBDA=23.4m  ; Batch instruction
.PARAM RD_val=1.6k  ; Batch instruction
.PARAM RS1_val=82  ; Batch instruction
.PARAM RS2_val=430  ; Batch instruction
.PARAM R1_val=91k  ; Batch instruction
.PARAM R2_val=39k  ; Batch instruction
.PARAM Cin_val=10u  ; Batch instruction
.PARAM Cout_val=10u  ; Batch instruction
.PARAM Cs_val=100u  ; Batch instruction
.backanno
.end